US09340527B2
ethyl 1-((6-((cis-4-(tert-pentyl)cyclohexyl)oxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate
A mixture of 1-(6-hydroxy-naphthalen-2-ylmethyl)-piperidine-4-carboxylic acid ethyl ester (0.400 g, 1.28 mmol), trans-4-(1,1-dimethyl-propyl)-cyclohexanol (0.2395 g, 1.406 mmol) and triphenylphosphine (0.6695 g, 2.553 mmol) in toluene (5 mL, 40 mmol) was stirred for 20 min, then, diisopropyl azodicarboxylate (0.32 mL, 1.5 mmol) was added drop wise at 0° C. The solution was stirred at reflux overnight. The reaction was added to silica gel and the solvent was concentrated. The residue was purified with silica gel eluted with EtOAc in hexanes from 0 to 20% to give product as oil (0.6 g, 100%). LCMS: Rt=1.95 min, m/z=466.49 [M+H].

reactant | 1-(6-hydroxy-naphthalen-2-ylmethyl)-piperidine-4-carboxylic acid ethyl ester | 1.28 mmol, 0.400 g | C(C)OC(=O)C1CCN(CC1)CC1=CC2=CC=C(C=C2C=C1)O | C19H23NO3
reactant | trans-4-(1,1-dimethyl-propyl)-cyclohexanol | 1.406 mmol, 0.2395 g | CC(CC)(C)[C@@H]1CC[C@H](CC1)O | C11H22O
reactant | triphenylphosphine | 2.553 mmol, 0.6695 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 40 mmol, 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisopropyl azodicarboxylate | 1.5 mmol, 0.32 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | ethyl 1-((6-((cis-4-(tert-pentyl)cyclohexyl)oxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 0.6 g, 100% | C(C)(C)(CC)[C@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C30H43NO3
